US08217042B2
Preparation of 1-[3-(4-cyclohexylphenylamino)pyrido[2,3-b]pyrazin-6-yl]-3-ethylurea (reaction according to scheme 3)
83 mg of 1-(3-chloropyrido[2,3-b]pyrazin-6-yl)-3-ethylurea (0.33 mmol), 99 mg of 4-cyclohexylaniline (0.55 mmol), 30 mg of sodium tert-butoxide (0.30 mmol), 29 mg of tris(dibenzylideneacetone)dipalladium(0) (0.03 mmol) and 68 mg of 2-(dicyclohexylphosphanyl)biphenyl (0.19 mmol) were initially charged in 1.5 ml of dried toluene. The reaction mixture was heated to 100° C. under nitrogen in a microwave (100 watt) for 30 minutes. The solvent was removed under reduced pressure and the crude product was purified by column chromatography on silica gel (dichloromethane/methanol eluent). This gave a yellow solid.

reactant | 1-(3-chloropyrido[2,3-b]pyrazin-6-yl)-3-ethylurea | 0.33 mmol, 83 mg | ClC1=CN=C2C(=N1)N=C(C=C2)NC(=O)NCC | C10H10ClN5O
reactant | 4-cyclohexylaniline | 0.55 mmol, 99 mg | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | sodium tert-butoxide | 0.30 mmol, 30 mg | CC(C)([O-])C.[Na+]
reactant | 2-(dicyclohexylphosphanyl)biphenyl | 0.19 mmol, 68 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.03 mmol, 29 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-[3-(4-cyclohexylphenylamino)pyrido[2,3-b]pyrazin-6-yl]-3-ethylurea | C1(CCCCC1)C1=CC=C(C=C1)NC1=CN=C2C(=N1)N=C(C=C2)NC(=O)NCC | C22H26N6O
